US05464811
A solution of 2-fluoro-4-chloro-5-hydroxynitrobenzene (7.1 g, 37.1 mmol) and potassium carbonate (5.1 g, 37.1 mmol) in acetonitrile (300 ml) was stirred for 2 hours at a refluxing temperature. Cyclopentyl p-toluenesulfonate (10.3 g, 40.8 mmol) was added thereto, followed by stirring further for 2 hours under refluxing. After completion of the reaction, the solvent was distilled off under reduced pressure from the reaction mixture, 1N hydrochloric acid (800 ml) was added thereto, and the mixture was extracted with ethyl acetate (100 ml×3 times). The organic layer was washed with an aqueous solution of sodium bicarbonate and water, dried, and the solvent was distilled off under reduced pressure to obtain 2-fluoro-4-chloro-5-cyclopentyloxynitrobenzene as a yellow solid (8.93 g, 34.3 mmol, 92.6% yield).

reactant | 2-fluoro-4-chloro-5-hydroxynitrobenzene | 37.1 mmol, 7.1 g | FC1=C(C=C(C(=C1)Cl)O)[N+](=O)[O-] | C6H3ClFNO3
reactant | potassium carbonate | 37.1 mmol, 5.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Cyclopentyl p-toluenesulfonate | 40.8 mmol, 10.3 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CCCC1)C | C12H16O3S
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-fluoro-4-chloro-5-cyclopentyloxynitrobenzene | 34.3 mmol, 8.93 g, 92.6% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)[N+](=O)[O-] | C11H11ClFNO3
